US07659267B2
Methyl 4-cyano-2-(ethylamino)benzoate
Acetaldehyde (90%)(10 mL) and sodium triacetoxyborohydride (7.71 g, 36.4 mmol) were added to an acetic acid solution (10 mL) of methyl 2-amino-4-cyanobenzoate (3.04 g, 17.3 mmol) under ice cooling. The mixture was stirred at the same temperature for an hour and at room temperature for 2 hours. Ice water was added to the reaction mixture, the mixture was neutralized with sodium hydrogencarbonate, followed by extraction with ethyl acetate. The combined organic layers were washed with water and then saturated brine, dried over sodium sulfate, filtered and concentrated under reduced pressure. The crystals obtained were washed with diisopropyl ether-hexane to give the title compound (800 mg, 23%). The residue was applied to silica gel column chromatography (hexane/ethyl acetate=50:1 and then 30:1). The crystals obtained were washed with hexane to give the title compound (920 mg, 26%).

reactant | Acetaldehyde | 10 mL | C(C)=O | C2H4O
reactant | sodium triacetoxyborohydride | 36.4 mmol, 7.71 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | methyl 2-amino-4-cyanobenzoate | 17.3 mmol, 3.04 g | NC1=C(C(=O)OC)C=CC(=C1)C#N | C9H8N2O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | Methyl 4-cyano-2-(ethylamino)benzoate | 800 mg, 23% | C(#N)C1=CC(=C(C(=O)OC)C=C1)NCC | C11H12N2O2
